Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
s/p MVC
 
Major Surgical or Invasive Procedure:
___:  Traction pin placement
___:  ORIF of right both-column acetabular fracture via a 
Stoppa window and an ilioinguinal exposure.

 
History of Present Illness:
Mr. ___ is a ___ year old man who was involved in a MVC.  He was 
taken to ___ and found to have a right 
acetabular fracture and a right scapula fracture.  He was then 
transferred to the ___ for further evaluation and care.
 
Past Medical History:
s/p open appy at ___ of age
 
Social History:
___
Family History:
n/a
 
Physical Exam:
Upon admission:

Alert

Cardiac:  Regular rate rhythm
Chest:  Lungs clear
Abdomen:  Distended, FAST negative
Extremities:  RUE unable to move R shoulder, tender to 
palpatation, +pulses/sensation.  RLE slightly shortned, + 
pulses, sensation.
 
Pertinent Results:
___ 07:20PM BLOOD WBC-19.2* RBC-4.86 Hgb-14.2 Hct-40.6 
MCV-84 MCH-29.2 MCHC-35.0 RDW-13.7 Plt ___
___ 12:55PM BLOOD Hct-38.8*
___ 08:00AM BLOOD WBC-14.1* RBC-4.14* Hgb-12.1* Hct-34.5* 
MCV-83 MCH-29.1 MCHC-35.0 RDW-13.3 Plt ___
___ 07:15AM BLOOD WBC-10.3 RBC-3.74* Hgb-11.0* Hct-31.5* 
MCV-84 MCH-29.4 MCHC-34.9 RDW-13.2 Plt ___
___ 03:16PM BLOOD WBC-15.1* RBC-3.76* Hgb-11.0* Hct-31.1* 
MCV-83 MCH-29.2 MCHC-35.3* RDW-13.5 Plt ___
___ 07:25AM BLOOD WBC-13.3* RBC-3.76* Hgb-11.1* Hct-30.9* 
MCV-82 MCH-29.6 MCHC-35.9* RDW-13.6 Plt ___
___ 07:20AM BLOOD Hct-27.5*
___ 08:55AM BLOOD WBC-9.8 RBC-2.97* Hgb-8.7* Hct-25.5* 
MCV-86 MCH-29.3 MCHC-34.2 RDW-13.5 Plt ___
___ 07:20AM BLOOD Hct-27.8*
___ 07:20PM BLOOD ___ PTT-21.5* ___
___ 07:15AM BLOOD ___ PTT-31.6 ___
___ 07:15AM BLOOD Glucose-413* UreaN-10 Creat-0.7 Na-131* 
K-5.3* Cl-99 HCO3-25 AnGap-12
___ 03:16PM BLOOD Glucose-156* UreaN-11 Creat-0.6 Na-137 
K-4.1 Cl-104 HCO3-25 AnGap-12
___ 07:25AM BLOOD Glucose-145* UreaN-11 Creat-0.6 Na-136 
K-4.2 Cl-100 HCO3-24 AnGap-16
___ 08:55AM BLOOD Glucose-167* UreaN-17 Creat-0.6 Na-136 
K-3.7 Cl-99 HCO3-27 AnGap-14
___ 07:20PM BLOOD Lipase-37
___ 03:16PM BLOOD Calcium-7.5*
___ 07:25AM BLOOD Calcium-8.1* Phos-2.6* Mg-1.8
___ 07:20AM BLOOD Phos-1.8* Mg-2.0

___ CT Head:
IMPRESSION: No acute intracranial pathology including no 
hemorrhage.

___ CT Torso:
IMPRESSION: 
1. No acute solid organ pathology is noted within the chest, 
abdomen, and 
pelvis. 
2. Comminuted fracture of the right scapula and the comminuted 
fracture of 
the right acetabulum with extension into the ilium, ischium and 
right superior pubic ramus. 
3. Multiple sub 5 mm nodules of the right lung. 6 months follow 
up with chest CT is recommended.

AP Pelvis Xrays:
There is a complex fracture involving the right acetabulum with 
mild 
displacement of the fracture fragments. The fracture also 
extends to the 
superior aspect of the acetabular roof. Minimally displaced 
fractures of the right superior and inferior pubic rami are 
identified.

KUB ___:
IMPRESSION: Dilated loops of small and large bowel with moderate 
gastric 
distension consistent with ileus.

KUB ___:
IMPRESSION: 
1. Interval resolution of gastric distension. 
2. Persistent ileus. 

 
Brief Hospital Course:
Mr. ___ presented to the ___ on ___ via transfer from 
___.  He was evaluated by the trauma and 
orthopaedic surgery services.  He was found to have a right 
acetabular and right scapular fracture.  A traction pin was 
placed in the emergency department, and he was admitted to the 
orthopaedic surgery service.  On ___ he was noted to have 
abdominal pain and distension.  An NGT was placed by surgery and 
he was made NPO and placed on IVF. His abdominal pain and 
distention resolved on ___ and the NGT was left in place for 
precautionary measures.

He was taken to the OR for ORIF of his right acetabulum on ___. 
The traction pin apparatus was removed in the OR. He tolerated 
the procedure well, recovered in the PACU without events, and 
returned to the floor in stable condition.

His NGT was removed on POD 1 and he began tolerating a regular 
diet shortly thereafter.

acute blood loss anemia - the patient was transfused 1 unit of 
PRBCs on ___ and again on ___ for acute anemia. His HCT was 
stable prior to discharge.

___ - the patient was seen and evaluated by ___

His pain was well controlled with IV and then PO pain 
medication. He was tolerating a regular diet prior to discharge.

He was discharged to .... on ___.
 
Medications on Admission:
denies
 
Discharge Medications:
1. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours).  
2. Lovenox 30 mg/0.3 mL Syringe Sig: One (1) inj Subcutaneous 
every twelve (12) hours for 4 weeks.
Disp:*56 syringes* Refills:*0*
3. Oxycodone 5 mg Capsule Sig: ___ Capsules PO every four (4) 
hours as needed for pain.
Disp:*90 Capsule(s)* Refills:*0*
4. Valium 5 mg Tablet Sig: ___ Tablets PO every ___ hours as 
needed for muscle spasms.
Disp:*30 Tablet(s)* Refills:*0
5. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
6. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*0*
7. Senna 8.6 mg Capsule Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
8. Zolpidem 5 mg Tablet Sig: ___ Tablets PO HS (at bedtime) as 
needed for sleep.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
s/p MVC
Right both column acetabular fracture
Right scapular fracture

 
Discharge Condition:
Stable

 
Discharge Instructions:
Do not bear weight through your right arm until after follow up.
You may lightly touch down your right foot, but do not bear 
weight.

Please call your doctor or return to the ER for any of the 
following:
* You experience new chest pain, pressure, squeezing or 
tightness.
* New or worsening cough or wheezing.
* If you are vomiting and cannot keep in fluids or your 
medications.
* You are getting dehydrated due to continued vomiting, 
diarrhea or other reasons. Signs of dehydration include dry 
mouth, rapid heartbeat or feeling dizzy or faint when standing.
* You see blood or dark/black material when you vomit or have a 
bowel movement.
* Your pain is not improving within ___ hours or not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or is changing location or moving to your chest or 

back.
* You have shaking chills, or a fever greater than 101.5 (F) 
degrees or 38(C) degrees.
* Any serious change in your symptoms, or any new symptoms that 
concern you.
Physical Therapy:
RUE NWB
RLE TDWB
Treatments Frequency:
dry sterile dressings to incisions as needed
 
Followup Instructions:
___